US09428503B2
Intermediate B5: 6-Bromo-4-[(cis-3-methoxycyclobutyl)amino]quinoline-3-carboxamide
DIPEA (13.76 mL, 78.80 mmol) was added to a mixture of 6-bromo-4-chloroquinoline-3-carboxamide (7.5 g, 26.27 mmol) and 3-methoxycyclobutan-1-amine hydrochloride (3.98 g, 28.89 mmol) in DMA (35 mL) and the resulting mixture stirred at 100° C. for 18 h. The reaction mixture was diluted with water (250 mL) and the precipitate was collected by filtration, washed with water (50 mL) and dried under vacuum to afford the desired material (6.28 g, 68.3%) as a tan solid, which was used without further purification. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 2.45-2.55 (2H, m), 2.76-2.88 (2H, m), 3.17 (3H, s), 3.66 (1H, q), 4-4.16 (1H, m), 7.67 (1H, s), 7.80 (1H, dd), 7.93 (1H, dd), 8.15 (1H, s), 8.59 (1H, s), 8.69 (1H, s), 9.34 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=350, 352.

reactant | DIPEA | 78.80 mmol, 13.76 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-bromo-4-chloroquinoline-3-carboxamide | 26.27 mmol, 7.5 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)N)Cl | C10H6BrClN2O
reactant | 3-methoxycyclobutan-1-amine hydrochloride | 28.89 mmol, 3.98 g | Cl.COC1CC(C1)N
solvent | DMA | 35 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 250 mL | O | H2O
product | 6-Bromo-4-[(cis-3-methoxycyclobutyl)amino]quinoline-3-carboxamide | 6.28 g, 68.3% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)N)N[C@@H]1C[C@@H](C1)OC | C15H16BrN3O2
